US09278931B2
A) tert-butyl(cyclopropylmethyl)(trans-2-{4-[(1H-pyrazol-4-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate
A solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate (75 mg) in DMF (3 mL) was ice-cooled, and 1H-pyrazole-4-carboxylic acid (33.4 mg), N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (143 mg), 1-hydroxybenzotriazole (49.4 mg) and diisopropylethylamine (80 mg) were added. The mixture was stirred at room temperature overnight, and saturated aqueous sodium hydrogen carbonate solution was added under ice-cooling. The mixture was extracted with ethyl acetate, and the extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (72 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate | 75 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)N(C(OC(C)(C)C)=O)CC1CC1 | C18H26N2O2
reactant | 1H-pyrazole-4-carboxylic acid | 33.4 mg | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 143 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 49.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 80 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl(cyclopropylmethyl)(trans-2-{4-[(1H-pyrazol-4-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate | 72 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C=1C=NNC1)CC1CC1)=O | C22H28N4O3
